US04831055
1-(4-Isopropylbenzoyl)aziridine
Aziridine (4.52 g) and 10.62 g of triethylamine were dissolved in 200 ml of benzene. p-Isopropylbenzoyl chloride (18.26 g) was dropped thereinto with stirring and keeping the inner temperature at 4° to 5° C. After the dropping, the mixture was stirred for 2 hours at the same temperature. After the reaction, the insoluble matters were removed by filtration, the filtrate was concentrated in vacuo, and the residue was purified by a silica gel column chromatography (300 g of silica gel C-200; the eluting solvent was chloroform) to give 17.70 g of the product, yield: 94%.

reactant | Aziridine | 4.52 g | N1CC1 | C2H5N
reactant | triethylamine | 10.62 g | C(C)N(CC)CC | C6H15N
reactant | p-Isopropylbenzoyl chloride | 18.26 g | C(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-(4-Isopropylbenzoyl)aziridine | 17.70 g, yield: 94% | C(C)(C)C1=CC=C(C(=O)N2CC2)C=C1 | C12H15NO
